US05434245
First, 10 g of carboxypeptidase B (Sigma) was added to 100 pl of a solution of the (Glu-OC)-Lys monomers obtained in the above step (6), and the mixture was left for 2 hr at 37° C. Then the reaction was stopped by the addition of 50.1 of 0.1% trifluoroacetate solution. The mixture was separated by high-pressure liquid chromatography with use of a C18 reversed-phase column, and Glu-OC was obtained quantitatively.

reactant | carboxypeptidase B | 10 g | C[C@@H](C(=O)N[C@@H](C)C(=O)N1CCC[C@H]1C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)SCC3=CC=CC=C3)NC(=O)CCC(=O)O | C31H38N4O7S
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | Glu | N[C@@H](CCC(O)=O)C(=O)O | C5H9NO4
